US07943609B2
(11R)-3-(Benzyloxy)-11-(1-fluoro-1-methylethyl)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine (310 mg, 0.763 mmol) was dissolved in ethanol (50 mL) and the solution was placed in a pressure bottle. Palladium on carbon (10%, 140 mg) was added and the reaction mixture was shaken under H2 at 48 PSI (3.3×105 Pa) overnight. The reaction mixture was filtered through a pad of CELITE filter agent. The pad was rinsed with 1:1 CH2Cl2/ethanol and the combined filtrates were concentrated under reduced pressure to give an off white solid. Chromatography (SiO2, 30-50% CMA/CHCl3) followed by recrystallization from 1,2-dichloroethane gave (11R)-6-amino-11-(1-fluoro-1-methylethyl)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-3-ol (63 mg) as a white powder, mp 219-221° C.

reactant | (11R)-3-(Benzyloxy)-11-(1-fluoro-1-methylethyl)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine | 0.763 mmol, 310 mg | C(C1=CC=CC=C1)OC1=CC=C2C3=C(C(=NC2=C1)N)N=C1N3[C@H](COC1)C(C)(C)F | C23H23FN4O2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Palladium on carbon | 140 mg | [Pd] | Pd
product | (11R)-6-amino-11-(1-fluoro-1-methylethyl)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-3-ol | 63 mg | NC1=NC2=CC(=CC=C2C2=C1N=C1N2[C@H](COC1)C(C)(C)F)O | C16H17FN4O2
